### PR TITLE
[Merged by Bors] - feat: Extend a nonnegative function

### PR DESCRIPTION
**Pull request by YaelDillies**
The result of extending a nonnegative function by a nonnegative function is nonnegative.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Pi.lean [hunk 1]
```diff
@@ -149,6 +145,18 @@ theorem const_lt_one : const β a < 1 ↔ a < 1 :=
...
+variable [One γ] [LE γ] {f : α → β} {g : α → γ} {e : β → γ}
+
+@[to_additive extend_nonneg] lemma one_le_extend (hg : 1 ≤ g) (he : 1 ≤ e) : 1 ≤ extend f g e :=
+  fun _b ↦ by classical exact one_le_dite (fun _ ↦ hg _) (fun _ ↦ he _)
+
+@[to_additive] lemma extend_le_one (hg : g ≤ 1) (he : e ≤ 1) : extend f g e ≤ 1 :=
+  fun _b ↦ by classical exact dite_le_one (fun _ ↦ hg _) (fun _ ↦ he _)
+
+end extend
 end Function
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Pi.lean:160]: I'd argue it's better to leave a space between `end`s like this, as it make it easier to spot where is suitable to insert a new section.

File: Mathlib/Algebra/Order/Pi.lean [hunk 2]
```diff
@@ -149,6 +145,18 @@ theorem const_lt_one : const β a < 1 ↔ a < 1 :=
...
 
+end const
+
+section extend
+variable [One γ] [LE γ] {f : α → β} {g : α → γ} {e : β → γ}
+
+@[to_additive extend_nonneg] lemma one_le_extend (hg : 1 ≤ g) (he : 1 ≤ e) : 1 ≤ extend f g e :=
+  fun _b ↦ by classical exact one_le_dite (fun _ ↦ hg _) (fun _ ↦ he _)
+
+@[to_additive] lemma extend_le_one (hg : g ≤ 1) (he : e ≤ 1) : extend f g e ≤ 1 :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/Pi.lean:156]:
```suggestion
@[to_additive extend_nonpos] lemma extend_le_one (hg : g ≤ 1) (he : e ≤ 1) : extend f g e ≤ 1 :=
```

Comment (eric-wieser) [reply Mathlib/Algebra/Order/Pi.lean:156]: (and throughout)

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Pi.lean:156]: `to_additive` guesses the correct name already

File: Mathlib/Algebra/Order/Pi.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Pi.lean:160]: I actually find it easier to spot section ends when they're grouped together. It's more visually catching.

File: Mathlib/Algebra/Order/Pi.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Order/Pi.lean:156]: Ah, the problem is that `one_le` is a prefix but `_nonneg` is a suffix?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Pi.lean:156]: Yeah exactly!

File: Mathlib/Order/Basic.lean [hunk 3]
```diff
@@ -1452,3 +1452,41 @@ noncomputable instance AsLinearOrder.linearOrder {α} [PartialOrder α] [IsTotal
...
+@[to_additive]
+lemma ite_le_one [LE α] (ha : a ≤ 1) (hb : b ≤ 1) : ite p a b ≤ 1 := by split <;> assumption
+
+@[to_additive ite_pos]
+lemma one_lt_ite [LT α] (ha : 1 < a) (hb : 1 < b) : 1 < ite p a b := by split <;> assumption
+
+@[to_additive]
+lemma ite_lt_one [LT α] (ha : a < 1) (hb : b < 1) : ite p a b < 1 := by split <;> assumption
+
+end
```
Comment (eric-wieser) [inline Mathlib/Order/Basic.lean:1492]: Did you check we don't have these named with `if` instead of `ite`?

bors d+

File: Mathlib/Order/Basic.lean [hunk 4]
```diff
@@ -1452,3 +1452,41 @@ noncomputable instance AsLinearOrder.linearOrder {α} [PartialOrder α] [IsTotal
...
+  split; exacts [ha ‹_›, hb ‹_›]
+
+@[to_additive]
+lemma dite_lt_one [LT α] (ha : ∀ h, a h < 1) (hb : ∀ h, b h < 1) : dite p a b < 1 := by
+  split; exacts [ha ‹_›, hb ‹_›]
+
+end dite
+
+section
+variable [One α] {p : Prop} [Decidable p] {a b : α}
```
Comment (eric-wieser) [inline Mathlib/Order/Basic.lean:1478]: Arguably `p` should be explicit here

Comment (YaelDillies) [reply Mathlib/Order/Basic.lean:1478]: It's not a rewriting lemma. I've been arguing before that inequality lemmas should tend to have fewer explicit arguments because they are usually given with a lot of context for unification to kick in/chained using `.trans`.
